US04391627
Methyl 3-Isocyanatosulfonylbenzothiophene-2-carboxylate
Methyl 3-aminosulfonylbenzothiophene-2-carboxylate (10 grams), 75 ml of xylene, 3.5 g. of 3-butyl isocyanate and 0.2 g. of 1,4-diazabicyclo[2,2,2]octane in admixture were heated to reflux under a dry ice cooled reflux condenser for 10 minutes. Phosgene gas was passed into the system until the reflux temperature dropped to 120°. The addition was discontinued until the temperature rose to 130° and then additional phosgene was added to cause the temperature to drop to 120°. The cycle was repeated until the reflux temperature remained at 120° for one half hour with no further addition of phosgene. The mixture was then cooled, filtered and the filtrate was concentrated to remove the xylene and recovered butyl isocyanate. The residue thus obtained showed absorption peaks by infrared at 2200 and 1700 cm-1 consistent for the isocyanate and carboxylate groups. This product was used for the synthesis of the herbicides of this invention without further purification. The isocyanate derivatives of Tables I-Ic can be prepared from the appropriately substituted sulfonamides by the method set forth in Examples 1 and 2.

reactant | Methyl 3-aminosulfonylbenzothiophene-2-carboxylate | 10 grams | NS(=O)(=O)C1=C(SC2=C1C=CC=C2)C(=O)OC | C10H9NO4S2
reactant | 3-butyl isocyanate | CCC(C)N=C=O | C5H9NO
reactant | 1,4-diazabicyclo[2,2,2]octane | N12CCN(CC1)CC2 | C6H12N2
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | isocyanate | [N-]=C=O
solvent | xylene | 75 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 3-Isocyanatosulfonylbenzothiophene-2-carboxylate | N(=C=O)S(=O)(=O)C1=C(SC2=C1C=CC=C2)C(=O)OC | C11H7NO5S2
